US04500343
To a stirred solution of 7 g of 3-(1,1-dimethylethyl)-5-aminoisoxazole dissolved in 50 ml ethyl acetate was added 5.05 g of triethylamine at room temperature. As the solution continued to stir, 8 g of 2-methyl-4-chlorobutyric acid chloride was added to the reaction mixture over a 15 minute period. The reaction was allowed to stir for about 3 days and the precipitated triethylamine hydrochloride salt was collected by filtration and washed with ethyl acetate. The solvent was evaporated from the filtrate under reduced pressure and the residue was recrystallized from diethyl ether to afford 4-chloro-N-[3-(1,1-dimethylethyl)-5-isoxazolyl]-2-methylbutanamide as a solid. mp 135°-137° C.

reactant | 3-(1,1-dimethylethyl)-5-aminoisoxazole | 7 g | CC(C)(C)C1=NOC(=C1)N | C7H12N2O
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-4-chlorobutyric acid chloride | 8 g | CC(C(=O)Cl)CCCl | C5H8Cl2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-N-[3-(1,1-dimethylethyl)-5-isoxazolyl]-2-methylbutanamide | ClCCC(C(=O)NC1=CC(=NO1)C(C)(C)C)C | C12H19ClN2O2
